US07713994B2
3-Hydroxy-4-(2-pyrrolidin-1-yl-ethoxy)-benzaldehyde O-methyl-oxime
An amount of 3-hydroxy-4-(2-pyrrolidin-1-yl-ethoxy)-benzaldehyde (150 mg, 0.64 mmol) is added pyridine (3.5 ml) at room temperature, followed by addition of methoxylamine hydrogen chloride (58.2 mg, 0.70 mmol). The mixture is stirred at ambient temperature for 24 h, and 4 mL of water is added. After the solvents were evaporated, the residue is dissolved 8 mL of anhydrous ether, washed successively with 2 mL of aqueous sodium bicarbonate, 2 mL of sodium bisulfite, and 2 mL of brine. Dried over magnesium sulfate, evaporated to give a yellow solid (100 mg). MS (ESI) m/z 265.8 (M+1)

reactant | 3-hydroxy-4-(2-pyrrolidin-1-yl-ethoxy)-benzaldehyde | 0.64 mmol, 150 mg | OC=1C=C(C=O)C=CC1OCCN1CCCC1 | C13H17NO3
reactant | pyridine | 3.5 ml | N1=CC=CC=C1 | C5H5N
reactant | methoxylamine hydrogen chloride | 0.70 mmol, 58.2 mg | Cl.O(C)N
solvent | water | 4 mL | O | H2O
product | 3-Hydroxy-4-(2-pyrrolidin-1-yl-ethoxy)-benzaldehyde O-methyl-oxime | 100 mg | CON=CC1=CC(=C(C=C1)OCCN1CCCC1)O | C14H20N2O3
